### ISSUE TITLE
HexConway Phase 6: add general luebeckConwayPolynomial?_monic and conwayPoly_monic wrappers

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5164]
## Current state

`HexConway/Basic.lean` exposes two general theorems that lift every
per-entry irreducibility / degree witness through the
`luebeckConwayPolynomial?` and `conwayPoly` lookup wrappers:

- `luebeckConwayPolynomial?_irreducible` (line 2533) — case split on
  `luebeckConwayCoeffs?` against every committed `(p, n)` entry,
  dispatching to the matching `luebeckConwayPolynomialOfCoeffs_p_n_irreducible`
  witness; covers primes `{2, 3, 5, 7, 11, 13} × {1..6}` plus a
  trailing `none` arm.
- `luebeckConwayPolynomial?_degree_pos` (line 2712) — same shape, but
  proves the imported entry has positive degree.

These feed `conwayPoly_irreducible` (line 2739) and
`conwayPoly_nonconstant` (line 2732), the SupportedEntry-level
wrappers downstream callers actually use.

The monic surface is the asymmetric corner: every per-entry monic
witness already exists as `luebeckConwayPolynomial_p_n_monic` for
each `(p, n) ∈ {2,3,5,7,11,13} × {1..6}` (36 theorems total, lines
111, 268, 297, ..., 1305). But there is no general
`luebeckConwayPolynomial?_monic` lifting and no
`conwayPoly_monic` wrapper.

`SupportedEntry p n` (line 2619) bundles `prime` and
`isSupported`. Callers that need monicity for a supported entry
currently have to plumb through `h.isSupported` to one of the
36 explicit `_monic` witnesses by hand, picking the matching pair
themselves. The `SupportedEntry` API for the committed entries
(`supportedEntry_2_1` through `supportedEntry_3_3`, lines 2625–2672)
similarly does not have a single `(conwayPoly p n h).Monic` accessor.

Per `git grep`, no consumer of `conwayPoly` currently exists outside
this file (none of `HexBerlekamp*`, `HexHensel*`, `HexPolyFp` call
it yet), so this is strictly additive public surface for future
clients of `SupportedEntry` — mirroring the pattern set by the
existing `_irreducible` / `_degree_pos` general wrappers.

## Deliverables

In `HexConway/Basic.lean`, add two public docstringed theorems:

1. **`luebeckConwayPolynomial?_monic`** — placed immediately after
   `luebeckConwayPolynomial?_irreducible` (line 2615) and before the
   `structure SupportedEntry` declaration (line 2619). Statement:

   ```lean
   /-- Every committed Tier 1 Conway entry in the current table is monic. -/
   theorem luebeckConwayPolynomial?_monic
       {p n : Nat} [ZMod64.Bounds p] {f : FpPoly p}
       (h : luebeckConwayPolynomial? p n = some f) :
       DensePoly.Monic f := by
     ...
   ```

   Proof shape: copy the structure of `luebeckConwayPolynomial?_irreducible`
   exactly. Unfold `luebeckConwayPolynomial?` and
   `luebeckConwayCoeffs?`, `split` on the cases, and in each
   `(p, n)` arm `cases hcoeffs` followed by a `decide`-style monic
   witness derived from the matching
   `luebeckConwayPolynomial_p_n_monic` theorem. The simplest
   approach is to reuse the existing per-entry `_monic` witnesses
   verbatim, but they are stated for the per-entry `_p_n` constants
   rather than `luebeckConwayPolynomialOfCoeffs`. Verify whether
   `decide` closes each arm directly (most per-entry `_monic`
   theorems use `rfl`) or whether you need to introduce a small
   intermediate `luebeckConwayPolynomialOfCoeffs_p_n_monic` for each
   case in the same style as the existing
   `luebeckConwayPolynomialOfCoeffs_p_n_irreducible` siblings that
   `luebeckConwayPolynomial?_irreducible` already discharges to. If
   the existing constants `luebeckConwayPolynomialOfCoeffs_p_n`
   already match, prefer `decide` per arm; otherwise prove and use
   `luebeckConwayPolynomialOfCoeffs_p_n_monic` as a small private
   lemma in this file (matching how `_irreducible_p_n` were
   organised by #2365 / #2348 / earlier).

2. **`conwayPoly_monic`** — placed immediately after
   `conwayPoly_irreducible` (line 2739, at the end of the file
   before `end Conway`). Statement:

   ```lean
   /-- Supported Conway entries carry the imported monicity witness. -/
   theorem conwayPoly_monic
       (p n : Nat) [ZMod64.Bounds p] (h : SupportedEntry p n) :
       DensePoly.Monic (conwayPoly p n h) := by
     exact luebeckConwayPolynomial?_monic
       (f := conwayPoly p n h) (luebeckConwayPolynomial?_conwayPoly h)
   ```

   Mirror the `conwayPoly_irreducible` / `conwayPoly_nonconstant`
   shape verbatim.

Style notes:
- Both theorems are non-simp; mirror `_irreducible` and
  `_degree_pos`, which are not tagged `@[simp]`.
- Match the one-sentence docstring style used by
  `_irreducible`, `_degree_pos`, and the existing `conwayPoly_*`
  wrappers.
- Do not change anything outside the file. No `libraries.yml`
  bump in this issue.

## Context

Phase 6 (proof polishing) for `HexConway` is open per
`python3 scripts/status.py`:

```
HexConway -> Phase 6 (proof polishing)
  spec: SPEC/Libraries/hex-conway.md
  plan: PLAN/Phase6.md
  on complete: libraries.yml HexConway.done_through: 6
```

The earlier Phase 6 work on this library (#3481, #5140, #3587)
exposed `supportedEntry_p_n` for primes 2 and 3, polished the
committed-table API, and added `prime_two`/`prime_three` accessors.
Adding the missing `_monic` lifting completes the natural trio
(`irreducible`, `nonconstant`, `monic`) that downstream callers
of `SupportedEntry`/`conwayPoly` will expect.

This change is strictly additive: no behavior change, no rewiring
of existing call sites, no impact on the project graph beyond the
new declarations being available.

## Verification

- `lake build HexConway.Basic`
- `lake build HexConway`
- `python3 scripts/check_dag.py`
- `git diff --check`
- `git grep -n "luebeckConwayPolynomial?_monic\\|conwayPoly_monic" HexConway/Basic.lean`
  — confirms both new declarations are present.
- `git diff -- HexConway/Basic.lean | rg -n "sorry|axiom|native_decide|TODO|FIXME"`
  — must produce no output.

End-of-turn progress file as usual.

**Comment by kim-em** [comment]
Session: `078d18d8-e97d-4c10-95a3-d75c81f8f64b` Branch: `agent/078d18d8`

**Comment by kim-em** [comment]
Claimed by session `1bef3670-c173-41b4-bfc4-e0b2cc424247` on branch `agent/1bef3670`
